US07691882B2
(4-(2-Furan-2-yl-ethyl)-phenyl)-methanol
To an anhydrous tetrahydrofuran (10 mL) solution of ethyl 4-(2-furan-2-yl-ethyl)-benzoic acid ethyl ester (706 mg, 2.89 mmol) described in Manufacturing Example 80-1-2 was added diisobutyl aluminum hydride (0.97 M toluene solution, 7.45 mL, 7.23 mmol) on a dry ice-ethanol bath (−78° C.) under nitrogen atmosphere. After 30 minutes of stirring, 15% aqueous potassium sodium tartrate solution (40 mL) was added to the reaction solution, and stirred for 30 minutes at room temperature. Ethyl acetate (100 mL) was added, and the organic layer and water layer were separated. The organic layer was washed with water and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure to obtain the title compound (580 mg, 99%).

reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | ethyl 4-(2-furan-2-yl-ethyl)-benzoic acid ethyl ester | 2.89 mmol, 706 mg | C(C)OC(C1=C(C=C(C=C1)CCC=1OC=CC1)CC)=O | C17H20O3
reactant | diisobutyl aluminum hydride | 7.23 mmol, 0.97 M, 7.45 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | potassium sodium tartrate | 40 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (4-(2-Furan-2-yl-ethyl)-phenyl)-methanol | 580 mg, 99% | O1C(=CC=C1)CCC1=CC=C(C=C1)CO | C13H14O2
